US08476434B2
Synthesis of N-(3-(1-methylethyl)phenyl)-3-((3-(4-pyrimidinyl)-2-pyridinyl)amino)benzamide
To 3-amino-N-(3-isopropyl-phenyl)-4-methyl-benzamide (300 mg, 1.2 mmol), 4-(2-chloropyridin-3-yl)pyrimidine (100 mg, 0.52 mmol) and DMSO (0.15 mL) was added NEt3-TFA (0.11 mL). The resulting slurry was stirred for 22 hours at 90° C. The crude material was purified by silica gel chromatography (40-60% EtOAc/hexanes) to yield the title compound as a yellow solid. MS m/z=410 [M+1]+. Calc'd for C25H23N5O: 409.49.

reactant | 3-amino-N-(3-isopropyl-phenyl)-4-methyl-benzamide | 1.2 mmol, 300 mg | NC=1C=C(C(=O)NC2=CC(=CC=C2)C(C)C)C=CC1C | C17H20N2O
reactant | 4-(2-chloropyridin-3-yl)pyrimidine | 0.52 mmol, 100 mg | ClC1=NC=CC=C1C1=NC=NC=C1 | C9H6ClN3
reactant | NEt3-TFA | 0.11 mL | N(CC)(CC)CC.FC(F)(F)C(=O)O
solvent | DMSO | 0.15 mL | CS(=O)C | C2H6OS
product | N-(3-(1-methylethyl)phenyl)-3-((3-(4-pyrimidinyl)-2-pyridinyl)amino)benzamide | CC(C)C=1C=C(C=CC1)NC(C1=CC(=CC=C1)NC1=NC=CC=C1C1=NC=NC=C1)=O | C25H23N5O
